US04025505
The starting materials are prepared as follows: The solution of 23.4 g of t-butylhypochlorite in 20 ml of methylene chloride is added to that of 30.0 g of 4-nitroaniline and 27.0 g of dimethyl thioether in 650 ml of acetonitrile and 200 ml of methylene chloride while stirring at -40° under nitrogen. After 4 hours the temperature is raised to -20° and maintained there for three hours. After the addition of 30 g of sodium methoxide in 100 ml of methanol the mixture is refluxed for 15 hours, cooled, filtered and evaporated. The residue is dissolved in diethyl ether and filtered through a silica gel column to remove any unreacted 4-nitroaniline as its benzenesulfonate following addition of 17.4 g of benzenesulfonic acid. The filtrate is evaporated and the residue recrystallized from ethanol, to yield the 4-nitro-2-methylmercaptomethylaniline melting at 72°-77°.

reactant | t-butylhypochlorite | 23.4 g | C(C)(C)(C)OCl | C4H9ClO
reactant | 4-nitroaniline | 30.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | dimethyl thioether | 27.0 g | CSC | C2H6S
reactant | sodium methoxide | 30 g | C[O-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 650 ml | C(C)#N | C2H3N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | 4-nitro-2-methylmercaptomethylaniline | [N+](=O)([O-])C1=CC(=C(N)C=C1)CSC | C8H10N2O2S
